US04166115
A solution of 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid (syn isomer) (0.3 g) in a mixture of acetone (3 ml) and water (1.5 ml) was adjusted to pH 2 with 6 N hydrochloric acid and stirred for 4 hours at ambient temperature. After the acetone was distilled off, to the residue was added water (1 ml). The mixture was adjusted to pH 7 with a saturated aqueous solution of sodium bicarbonate and ice-cooled for 1 hour. Precipitating crystals were collected by filtration, washed with water and dried to give 6-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-5a,6-dihydro-3H,7H-azeto[2,1-b]furo[3,4-d][1,3]-thiazine-1,7(4H)-dione (syn isomer) (0.23 g), mp 210° to 215° C. (dec.).

reactant | 7-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-hydroxymethyl-3-cephem-4-carboxylic acid | 0.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)C=1N=C(SC1)N | C14H15N5O6S2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | acetone | 3 ml | CC(=O)C | C3H6O
solvent | water | 1.5 ml | O | H2O
product | 6-[2-methoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-5a,6-dihydro-3H,7H-azeto[2,1-b]furo[3,4-d][1,3]-thiazine-1,7(4H)-dione | 0.23 g | CON=C(C(=O)NC1C(N2C1SCC1=C2C(OC1)=O)=O)C=1N=C(SC1)N | C14H13N5O5S2
